US04438103
(d) Boc-Tyr-(D)Ala-Gly-MePhe-methioninol
1.23 g of Boc-Tyr-(D)Ala-Gly-OH is dissolved in 30 ml of THF and cooled to 15°. 0.38 ml of ethylmorpholine are added with stirring followed by 0.39 ml of chloroformic acid iso-butyl ester and stirring continued for 10 minutes. A cold solution of 14 g of TFA.H-MePhe-methioninol and 0.45 ml of N-ethylmorpholine in 12 ml of TFA are added with stirring at -15°. The mixture is stirred for 20 hours at 0°, diluted with 250 ml of acetic acid and washed repeatedly with water, 1 N citric acid, 10% KHCO3 and 30% NaCl solution. The liquid is dried over Na2SO4 and evaporated. The residue is purified chromatographically on kieselgel using a mixture of methanol/CH2Cl2 /50% acetic acid, whereby the title compound is obtained. Decomp. 160°.

reactant | Boc-Tyr-(D)Ala-Gly-OH | 1.23 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C19H27N3O7
reactant | ethylmorpholine | 0.38 ml | C(C)N1CCOCC1 | C6H13NO
reactant | chloroformic acid iso-butyl ester | 0.39 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | H-MePhe methioninol | N([C@@H](CC1=CC=CC=C1)C(=O)O)C.N[C@@H](CCSC)CO
reactant | N-ethylmorpholine | 0.45 ml | C(C)N1CCOCC1 | C6H13NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | H-Tyr-(D)Ala-Gly-Phe methioninol | 12 ml | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.N[C@@H](CCSC)CO
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | H-Tyr-(D)Ala-Gly-Phe methioninol | 14 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.N[C@@H](CCSC)CO
product | Boc-Tyr-(D)Ala-Gly-MePhe methioninol | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)O)C)C(=O)OC(C)(C)C.N[C@@H](CCSC)CO | InChI=1S/C29H38N4O8.C5H13NOS/c1-18(25(36)30-17-24(35)33(5)23(27(38)39)16-19-9-7-6-8-10-19)31-26(37)22(32-28(40)41-29(2,3)4)15-20-11-13-21(34)14-12-20;1-8-3-2-5(6)4-7/h6-14,18,22-23,34H,15-17H2,1-5H3,(H,30,36)(H,31,37)(H,32,40)(H,38,39);5,7H,2-4,6H2,1H3/t18-,22+,23+;5-/m10/s1
